US04008219
1.87 g of 2,3,4,5,6,7-hexahydro-1,6-methano-1H-4-benzazonine, 1.25 g of sodium bicarbonate and 1.33 g of allyl bromide were added into 30 ml of methanol, and the mixture was refluxed for 5 hours and subjected to distillation under reduced pressure. The residue was dissolved in 15 ml of 10% hydrochloric acid. The solution was washed once with 5 ml of benzene, and the water layer was made alkaline with sodium hydroxide and extracted with ether. Ether was distilled from the ether extract and the residue was subjected to vacuum distillation to obtain 2 g of a colorless oily substance as a fraction boiling at 110° to 120° C. (bath temperature) under 0.7 mmHg. The product was dissolved in 15 ml of ether and gaseous hydrochloric acid was blown into the solution to form a white precipitate. The precipitate was recovered by filtration and dried to obtain 4-allyl-2,3,4,5,6,7-hexahydro-1,6-methano-1H-4-benzazonine hydrochloride. Recrystallization from isopropanol gave a white crystalline powder melting at 212.5° to 214.5° C.

reactant | 2,3,4,5,6,7-hexahydro-1,6-methano-1H-4-benzazonine | 1.87 g | C12CCNCC(CC3=C1C=CC=C3)C2 | C13H17N
reactant | sodium bicarbonate | 1.25 g | C([O-])(O)=O.[Na+]
reactant | allyl bromide | 1.33 g | C(C=C)Br | C3H5Br
reactant | hydrochloric acid | Cl | ClH
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | methanol | 30 ml | CO | CH4O
product | 4-allyl-2,3,4,5,6,7-hexahydro-1,6-methano-1H-4-benzazonine hydrochloride | Cl.C(C=C)N1CC2CC3=C(C(CC1)C2)C=CC=C3 | InChI=1S/C16H21N.ClH/c1-2-8-17-9-7-15-11-13(12-17)10-14-5-3-4-6-16(14)15;/h2-6,13,15H,1,7-12H2;1H
